US09447106B2
To a solution of 7-(2-aminophenyl)-2-(4-hydroxyphenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidine-3-carbonitrile (331 mg, 1.0 mmol) in acetone (10 mL) was added (bromomethyl)benzene (204 mg, 1.2 mmol) and K2CO3 (276 mg, 2.0 mmol). The mixture was stirred at RT for 16 hr. 50 mL of acetone was added and filtered. The filtrate was concentrated to afford 400 mg (95%) of 7-(2-aminophenyl)-2-(4-(benzyloxy)phenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile as a yellow solid. MS (ESI) m/e [M+1]+ 421.9.

reactant | 7-(2-aminophenyl)-2-(4-hydroxyphenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 1.0 mmol, 331 mg | NC1=C(C=CC=C1)C1CCNC=2N1N=C(C2C#N)C2=CC=C(C=C2)O | C19H17N5O
reactant | (bromomethyl)benzene | 1.2 mmol, 204 mg | BrCC1=CC=CC=C1 | C7H7Br
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 7-(2-aminophenyl)-2-(4-(benzyloxy)phenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile | 400 mg, 95% | NC1=C(C=CC=C1)C1CCNC=2N1N=C(C2C#N)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C26H23N5O
